US08242133B2
A mixture of 0.31 g of 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole, 0.14 g of imidazole, 0.55 g of potassium carbonate and 2 ml of DMF was stirred while heating at room temperature for 1.5 hours, and then at 60° C. for 1.5 hours. The reaction mixture was cooled to room temperature, and then water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.31 g of 2-[3-(imidazole-1-yl)pyridin-4-yl]-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 56”).

reactant | 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.31 g | FC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F4N2O
reactant | imidazole | 0.14 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[3-(imidazole-1-yl)pyridin-4-yl]-5-(trifluoromethyl)benzoxazole | 0.31 g | N1(C=NC=C1)C=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C16H9F3N4O
